US07932282B2
A mixture of 1-methyl-2-oxo-3-(2,2,2-trifluoroethyl)-4-imidazolidinecarboxylic acid (84 mg, 0.37 mmol), 1-hydroxybenzotriazole hydrate (68.0 mg, 0.444 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (85 mg, 0.444 mmol) and N-ethyl morpholine (0.189 ml, 1.480 mmol) in dichloromethane (9 ml) was stirred at room temperature for 10 minutes. A solution of [1-(2,4-dichlorophenyl)methyl]amine (65.1 mg, 0.37 mmol) in dichloromethane (1 ml) was added and the reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with dichloromethane (10 ml) and the solution was washed with saturated sodium hydrogen carbonate solution (10 ml), water (10 ml), citric acid solution (10 ml) and brine (10 ml), dried and evaporated. The residue was purified by mass-directed automated HPLC. The residue was triturated with ether and the resulting solid was collected and dried to give N-[(2,4-dichlorophenyl)methyl]-1-methyl-2-oxo-3-(2,2,2-trifluoroethyl)-4-imidazolidinecarboxamide (60 mg, 42%). LC/MS [M+H]+=384, retention time=2.64 minutes.

reactant | 1-methyl-2-oxo-3-(2,2,2-trifluoroethyl)-4-imidazolidinecarboxylic acid | 0.37 mmol, 84 mg | CN1C(N(C(C1)C(=O)O)CC(F)(F)F)=O | C7H9F3N2O3
reactant | 1-hydroxybenzotriazole hydrate | 0.444 mmol, 68.0 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.444 mmol, 85 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-ethyl morpholine | 1.480 mmol, 0.189 ml | C(C)N1CCOCC1 | C6H13NO
reactant | [1-(2,4-dichlorophenyl)methyl]amine | 0.37 mmol, 65.1 mg | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[(2,4-dichlorophenyl)methyl]-1-methyl-2-oxo-3-(2,2,2-trifluoroethyl)-4-imidazolidinecarboxamide | 60 mg, 42% | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1N(C(N(C1)C)=O)CC(F)(F)F | C14H14Cl2F3N3O2
